US06500951B1
3-Carboxy-2-trifluoromethyl-2-hydroxy-1-butanal-1-(4-chloro-2-fluoro-5-hydroxyphenylhydrazone) (0.315 g) was dissolved in the mixture of acetic acid (1.0 ml) and pyridine (1.0 ml) under a nitrogen atmosphere, and stirred at 120° C. for 8 hours. After the reaction mixture was cooled to room temperature, it was concentrated under reduced pressure, and the residue was diluted with diethyl ether (100 ml). Then, the diluted solution was washed with 3N hydrochloric acid (each 20 ml) twice, and saturated sodium bicarbonate (30 ml) once, dried over magnesium sulfate, filtrated and concentrated under reduced pressure. The residue was subjected to column chromatography. Thus, 2-(2-fluoro-4-chloro-5-hydroxyphenyl)-4-methyl-5-trifluoromethylpyridazin-3-on (0.227 g) was obtained.

reactant | 3-Carboxy-2-trifluoromethyl-2-hydroxy-1-butanal-1-(4-chloro-2-fluoro-5-hydroxyphenylhydrazone) | 0.315 g | ClC1=CC(=C(C=C1O)NN=CC(C(C)C(=O)O)(O)C(F)(F)F)F | C12H11ClF4N2O4
solvent | acetic acid | 1.0 ml | C(C)(=O)O | C2H4O2
solvent | pyridine | 1.0 ml | N1=CC=CC=C1 | C5H5N
product | 2-(2-fluoro-4-chloro-5-hydroxyphenyl)-4-methyl-5-trifluoromethylpyridazin-3-on | 0.227 g | FC1=C(C=C(C(=C1)Cl)O)N1N=CC(=C(C1=O)C)C(F)(F)F | C12H7ClF4N2O2
